US09289419B2
Synthesis of (R)-Methyl 4-amino-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate
A mixture of 4M HCl solution in Dioxane (1 mL) and (R)-methyl 4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate (50 g, 0.085 mmol) was stirred at 20-35° C. for 3 h. After which the reaction mixture was concentrated under reduced pressure to afford the crude. The residue obtained was dissolved in water, extracted with ethylacetate, washed with saturated NaHCO3 solution followed by brine and dried over anhydrous sodium sulfate, concentrated under reduced pressure to afford 15 mg of the title compound.

reactant | HCl | 4M | Cl | ClH
reactant | (R)-methyl 4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate | 0.085 mmol, 50 g | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)OC | C30H35F2N5O5
solvent | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (R)-Methyl 4-amino-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate | 15 mg | NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)OC | C25H27F2N5O3
